US07452892B2
B. Preparation of 5-amino-7,8-bis(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one
To a mixture of crude 5-amino-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one (26 mg, 0.07 mmol), DMF (0.5 mL), and potassium carbonate (45 mg, 0.32 mmol) was added 5-chloromethyl-2-(trifluoromethyl)pyridine (21.2 mg, 0.11 mmol). The resulting reaction mixture was stirred at 50° C. for 80 min. The reaction mixture was purified by preparative reverse phase HPLC without prior workup to obtain 25 mg of the title compound as a light yellow solid. HPLC/MS: retention time=4.14 min, [M+H]30 =531.

reactant | 5-amino-7,8-bis(4-chlorophenyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 0.07 mmol, 26 mg | NC1=NC(=C(C=2N1C(NN2)=O)C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl | C17H11Cl2N5O
reactant | potassium carbonate | 0.32 mmol, 45 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 5-chloromethyl-2-(trifluoromethyl)pyridine | 0.11 mmol, 21.2 mg | ClCC=1C=CC(=NC1)C(F)(F)F | C7H5ClF3N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 5-amino-7,8-bis(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 25 mg | NC1=NC(=C(C=2N1C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O)C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl | C24H15Cl2F3N6O
